US07799806B2
Step 5: 1-(1-tert-Butoxycarbonyl-piperidin-4-yl)-2-methyl-1H-benzoimidazole-5-carboxylic acid allyl ester
To a stirred solution of 4-(4-allyloxycarbonyl-2-amino-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester (15.0 g, 39.95 mmol, 1.0 equiv) in ethanol (250 mL) were added copper(II) acetate (14.51 g, 79.90 mmol, 2.0 equiv) and acetaldehyde (44.1 mL, 0.20 mol, 5.0 equiv; 20% solution in water) and the reaction mixture heated to refluxe for 36 h. The solvent was evaporated, the residue diluted with water and extracted with ethyl acetate. The combined organic fractions were washed with water and a sat. solution of NaCl, dried over Na2SO4, concentrated by evaporation under reduced pressure and purified with silica column chromatography eluting with a gradient of hexane/ethyl acetate (3:7→1:9) to obtain 7.2 g (45%) of the title compound as a brown solid. 1H NMR (400 MHz, DMSO): δ 1.46 (s, 9H), 1.88-1.91 (m, 2H), 2.14-2.20 (m, 2H), 2.63 (s, 3H), 2.97 (br s, 2H), 4.13-4.15 (m, 2H), 4.58 (t, J=11.5 Hz, 1H), 4.81 (d, J=4.6 Hz, 2H), 5.28 (d, J=10.4 Hz, 1H), 5.40 (d, J=17.2 Hz, 1H), 6.03-6.10 (m, 1H), 7.68 (d, J=8.3 Hz, 1H), 7.81 (d, J=8.3 Hz, 1H), 8.14 (s, 1H). MS (ISP): 400.3 [M+H]+.

reactant | 4-(4-allyloxycarbonyl-2-amino-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester | 39.95 mmol, 15.0 g, 1.0 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C(C=C(C=C1)C(=O)OCC=C)N | C20H29N3O4
reactant | acetaldehyde | 0.20 mol, 44.1 mL, 5.0 equiv | C(C)=O | C2H4O
solvent | ethanol | 250 mL | C(C)O | C2H6O
catalyst | copper(II) acetate | 79.90 mmol, 14.51 g, 2.0 equiv | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 1-(1-tert-Butoxycarbonyl-piperidin-4-yl)-2-methyl-1H-benzoimidazole-5-carboxylic acid allyl ester | 7.2 g, 45% | C(C=C)OC(=O)C1=CC2=C(N(C(=N2)C)C2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C22H29N3O4
